US04325964
(1) 4-Chlorobenzylmercapto-acetonitrile
13 ml (15.9 g; 0.1 mol) of 4-chlorobenzylmercaptan and a solution of 4.2 g (0.105 mol) of NaOH in 50 ml of water are mixed whilst cold. Thereafter the mixture is heated to about 60° C. and then 7.5 ml (about 1.2 mols) of chloroacetonitrile are added dropwise at this temperature. At the end of this addition (the temperature is then about 80° C.) the mixture is heated under reflux (100° C.) for 30 to 45 minutes. After cooling, the oil which has formed is extracted with ether and the aqueous phase is discarded. The ether solution is washed with dilute NaOH and then with water until the wash waters have a neutral pH. The ether phase is dried over MgSO4 which is filtered off before the ether is evaporated. 19.7 g of the stated product are collected (yield about 100%, relative to the starting 4-chlorobenzylmercaptan); it is in the form of an oil.

reactant | 4-chlorobenzylmercaptan | 0.1 mol, 13 ml, 15.9 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | NaOH | 0.105 mol, 4.2 g | [OH-].[Na+]
reactant | chloroacetonitrile | about 1.2 mols, 7.5 ml | ClCC#N | C2H2ClN
solvent | water | 50 ml | O | H2O
product | 4-Chlorobenzylmercapto-acetonitrile | yield about 100% | ClC1=CC=C(CSCC#N)C=C1 | C9H8ClNS
